US07253286B2
1-(4-Fluorophenyl)-3-[4-(6-phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenyl]urea
After dissolving 40 mg of 4-(6-phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenylamine in 4.5 ml of toluene and 4.5 ml of acetonitrile at 110° C., 4-fluorophenyl isocyanate (16.6 μl) was added and the mixture was stirred for 1 hour. After returning the mixture to room temperature, the precipitated crystals were filtered out and dried to obtain 37 mg of the title compound.

reactant | 4-(6-phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenylamine | 40 mg | C1(=CC=CC=C1)C1=CC2=C(N=CN=C2OC2=CC=C(C=C2)N)N1 | C18H14N4O
reactant | 4-fluorophenyl isocyanate | 16.6 μl | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | toluene | 4.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 4.5 ml | C(C)#N | C2H3N
product | 1-(4-Fluorophenyl)-3-[4-(6-phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenyl]urea | 37 mg | FC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC=1C2=C(N=CN1)NC(=C2)C2=CC=CC=C2 | C25H18FN5O2
